US07214673B2
(S)-2-(2-Naphthalen-1-yl-ethyl)-piperazine
Dissolve (S)-1-benzyl-3-(2-naphthalen-1-yl-ethyl)-piperazine (1.07 g, 3.03 mmol) in ethanol (10 mL). Add ammonium formate (1.2 g, 19.0 mmol) and palladium hydroxide (200 mg, 20 wt. % on carbon) and heat to reflux. After 7 h, filter the palladium hydroxide and concentrate the filtrate. Combine with Example 422 and purify.

reactant | (S)-1-benzyl-3-(2-naphthalen-1-yl-ethyl)-piperazine | 3.03 mmol, 1.07 g | C(C1=CC=CC=C1)N1C[C@@H](NCC1)CCC1=CC=CC2=CC=CC=C12 | C23H26N2
reactant | ammonium formate | 19.0 mmol, 1.2 g | C(=O)[O-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 200 mg | [OH-].[Pd+2].[OH-]
product | (S)-2-(2-Naphthalen-1-yl-ethyl)-piperazine | C1(=CC=CC2=CC=CC=C12)CC[C@@H]1NCCNC1 | C16H20N2
